US09102621B2
4-{[(5-Chloro-6-isobutoxypyridin-3-yl)oxy]methyl}-2,5-difluorobenzoic acid
To a solution of methyl 4-((5-chloro-6-isobutoxypyridin-3-yloxy)methyl)-2,5-difluorobenzoate (Preparation 4, 623 mg, 1.6 mmol) in THF (10 mL) was added lithium hydroxide (1.8 mL of a 1 M solution in water) and the mixture stirred at room temperature under nitrogen for 18 hours. The solvent was evaporated in vacuo to give the title compound (352 mg, 59%) as a pale yellow solid and was used directly in the next step.

reactant | methyl 4-((5-chloro-6-isobutoxypyridin-3-yloxy)methyl)-2,5-difluorobenzoate | 1.6 mmol, 623 mg | ClC=1C=C(C=NC1OCC(C)C)OCC1=CC(=C(C(=O)OC)C=C1F)F | C18H18ClF2NO4
reactant | lithium hydroxide | [OH-].[Li+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-{[(5-Chloro-6-isobutoxypyridin-3-yl)oxy]methyl}-2,5-difluorobenzoic acid | 352 mg, 59% | ClC=1C=C(C=NC1OCC(C)C)OCC1=CC(=C(C(=O)O)C=C1F)F | C17H16ClF2NO4
